US06903118B1
c) 3-(4-diphenylmethyl-piperazin-1-yl-sulfonyl)-propylamine
Batch size: 149 (27.8 mmol) 2-[3-(4-diphenylmethyl-piperazin-1-yl-sulfonyl)-propyl)-isoindolin-1,3-dione and 2.8 ml (55.6 mmol) hydrazine.hydrate.

reactant | 2-[3-(4-diphenylmethyl-piperazin-1-yl-sulfonyl)-propyl)-isoindolin-1,3-dione | C1(=CC=CC=C1)C(N1CCN(CC1)S(=O)(=O)CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H29N3O4S
reactant | hydrazine.hydrate | 55.6 mmol, 2.8 ml | NN.O
product | 3-(4-diphenylmethyl-piperazin-1-yl-sulfonyl)-propylamine | C1(=CC=CC=C1)C(N1CCN(CC1)S(=O)(=O)CCCN)C1=CC=CC=C1 | C20H27N3O2S
